US04758566
Preparation of 2-chloro-4-(4-fluorophenyl)quinoline
A mixture of 12 g of 4-(4-fluorophenyl)carbostyril and 50 ml of phosphorus oxychloride is heated under reflux for 1.5 hours and then concentrated under reduced pressure. Ice-water is added to the residue and the resulting mixture is extracted with chloroform. The organic layer is dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is recrystallized from diethyl ether - ethanol to give 11.1 g of the title compound, m.p. 118° C.

reactant | 4-(4-fluorophenyl)carbostyril | 12 g | FC1=CC=C(C=C1)C1=CC(NC2=CC=CC=C12)=O | C15H10FNO
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(4-fluorophenyl)quinoline | 11.1 g | ClC1=NC2=CC=CC=C2C(=C1)C1=CC=C(C=C1)F | C15H9ClFN
